US06451804B1
To a suspension of ethyl 4-amino-2-methylthiopyrimidine-5-carboxylate (1215 g, 5.7 moles) in 2600 mL xylenes heated at 100-105° C. was added (956.5 g, 6.23 moles 2-chlorophenylisocyanate so as to maintain the temperature at 100° C. The temperature of the reaction mixture was raised to 120° C. and stirred for 14 hours. Heating was stopped and slow cooling to 110° C. was begun. When crystallization began, slow addition of 5256 mL ethyl acetate completed the crystallization. The mixture was cooled to 20° C. and filtered. The cake was washed with ethyl acetate and was placed in a vacuum oven and dried for 10-12 hours at 60° to 80° C. to give 1895 g (90.7%)of ethyl 4-{[(2-chlorophenyl)amino]carbonylamino}-2-methylthiopyrimidine-5-carboxylate, m.p.172.3-172.6° C.

reactant | ethyl 4-amino-2-methylthiopyrimidine-5-carboxylate | 5.7 moles, 1215 g | NC1=NC(=NC=C1C(=S)OCC)C | C8H11N3OS
reactant | 2-chlorophenylisocyanate | 6.23 moles, 956.5 g | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
product | ethyl 4-{[(2-chlorophenyl)amino]carbonylamino}-2-methylthiopyrimidine-5-carboxylate | 1895 g, 90.7% | ClC1=C(C=CC=C1)NC(=O)NC1=NC(=NC=C1C(=S)OCC)C | C15H15ClN4O2S
